US06255496B1
2-[N-Dodecyl-N-ethylamino]ethanol
2-[Dodecylamino]ethanol (2.0 g, 8.73 mmol), 1-iodoethane (1.63 g, 10.48 mmol) and N,N-diisopropylethylamine (2.51 g,17.5 mmol) in isopropanol (25 ml )were heated under reflux for 4 h. The solvent was then evaporated in vacuo and the residue was diluted with ethyl acetate washed with aqueous sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent followed by chromatography on silica gel (ethyl acetate/methanol 90:10 to 80:20) afforded the title compound (1.65 g, 73%) as a white solid.

reactant | 2-[Dodecylamino]ethanol | 8.73 mmol, 2.0 g | C(CCCCCCCCCCC)NCCO | C14H31NO
reactant | 1-iodoethane | 10.48 mmol, 1.63 g | ICC | C2H5I
reactant | N,N-diisopropylethylamine | 17.5 mmol, 2.51 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[N-Dodecyl-N-ethylamino]ethanol | 1.65 g, 73% | C(CCCCCCCCCCC)N(CC)CCO | C16H35NO
